US07592457B2
4,6-dichloro-2-[2-(4-methoxy-3-nitro-phenyl)-propionylamino]-benzoic acid methyl ester
The objective compound was prepared by the same procedure for the intermediate 1, using a 2-(4-methoxy-3-nitro-phenyl)-propionic acid (0.60 g, 2.70 mmol), SOC2 (0.96 mL, 13.0 mmol), and 2-amino-4,6-dichloro-benzoic acid methyl ester (0.77 g, 3.50 mmol). After normal workup, the pure objective compound (0.98 g, 82%) was obtained as white solid by recrystallization (dichloromethane:n-hexane=1:3): m.p 122° C.; 1H NMR (200 MHz, CDCl3) δ 1.60 (d, J=7.2 Hz, 3H, CH3), 3.65-3.84 (m, 4H, CO2CH3 & CH), 7.55 (dd, J=8.8, 2.2 Hz, 1H, ArH), 7.84 (d, J=2.2 Hz, 1H, ArH), 8.44 (d, J=2.0 Hz, 1H, ArH), 9.51 (br s, 1H, NH).

reactant | 2-(4-methoxy-3-nitro-phenyl)-propionic acid | 2.70 mmol, 0.60 g | COC1=C(C=C(C=C1)C(C(=O)O)C)[N+](=O)[O-] | C10H11NO5
reactant | 2-amino-4,6-dichloro-benzoic acid methyl ester | 3.50 mmol, 0.77 g | COC(C1=C(C=C(C=C1Cl)Cl)N)=O | C8H7Cl2NO2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | n-hexane | CCCCCC | C6H14
product | 4,6-dichloro-2-[2-(4-methoxy-3-nitro-phenyl)-propionylamino]-benzoic acid methyl ester | 0.98 g, 82% | COC(C1=C(C=C(C=C1Cl)Cl)NC(C(C)C1=CC(=C(C=C1)OC)[N+](=O)[O-])=O)=O | C18H16Cl2N2O6
